US06818622B2
(S)-(2,2-Dimethyl-5-oxo[1,3]dioxolan-4-yl)acetic Acid
(L)-Malic acid (200 g) was added to a mixture of acetone (800 mL) and 2,2-dimethoxypropane (342 mL) with stirring under nitrogen. Montmorillonite K-10 clay (5 g) was added to the solution and stirred for 17 hours, then the solution was filtered and reduced in volume to approximately 450 mL. The solution was cooled to 5° C., and the resultant crystals of the title compound filtered off (108 g, 42%). MP 108-109.5° C.

reactant | 2,2-dimethoxypropane | 342 mL | COC(C)(C)OC | C5H12O2
reactant | Montmorillonite K-10 | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
reactant | acetone | 800 mL | CC(=O)C | C3H6O
product | (S)-(2,2-Dimethyl-5-oxo[1,3]dioxolan-4-yl)acetic Acid | CC1(OC([C@@H](O1)CC(=O)O)=O)C | C7H10O5
